US03965190
1-(3'-Trifluoromethylthio-phenyl)-2-ethylamino-propane
1.85 g (40 mmols) of formic acid are introduced into a 50 ml. two-necked flask equipped with an air condenser and a dropping funnel. The flask is cooled on an ice bath and 2 ml. of ethylamine are added dropwise. The reaction mixture is allowed to return to ambient temperature and 2.85 g. (10 mmols) of 1-(3'-trifluoromethylthio-phenyl)-2-propanone are added. The contents of the flask are heated for 14 hours at 160°-170°C., 2 ml. of concentrated hydrochloric acid and 2 ml. of water are added, and the mixture is heated for 3 hours at the reflux temperature. A further 2 ml. of concentrated hydrochloric acid are added and the mixture is heated again at the reflux temperature for 2 hours. The mixture is allowed to cool, water is added and the product is extracted once with 50 ml. of diethyl ether. The aqueous layer is rendered alkaline with sodium hydroxide solution and extracted three times in succession with 50 ml. of diethyl ether each time. The combined ether extracts are washed several times with water, dried over sodium sulphate, and filtered. The ether is evaporated from the filtrate in vacuo on a water bath. The 1.4 g of oily residue are dissolved in anhydrous diethyl ether and a solution of hydrogen chloride in diethyl ether is added until precipitation has ended.

reactant | formic acid | 40 mmols, 1.85 g | C(=O)O | CH2O2
reactant | ethylamine | C(C)N | C2H7N
reactant | 1-(3'-trifluoromethylthio-phenyl)-2-propanone | 10 mmols | FC(SC=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3OS
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(3'-Trifluoromethylthio-phenyl)-2-ethylamino-propane | FC(SC=1C=C(C=CC1)CC(C)NCC)(F)F | C12H16F3NS
